US06521666B1
To a mixture of 2,6-dicyanobenzene boronic acid (0.516 g) and anhydrous K2CO3 (0.52 g) in DME/H2O (10 mL/0.5 mL) under N2 was added N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester (0.5 g), The catalyst Pd(PPh3)4 (0.1 g) was added and the mixture was heated at 80° C. for 5 h. The mixture was cooled, diluted with EtOAc and washed successively with water and brine. The organic layer was dried (MgSO4), evaporated, and the residue was purified by column chromatography (silica gel; eluent: EtOAc/hexane 3/1)) to yield 325 mg of N-(2,6-dichlorobenzoyl)-4-(2-cyano-6-carbamoyl-phenyl)-L-phenylalanine methyl ester. ESMS: m/z 496 (MH+), 494 (M−H)−.

reactant | 2,6-dicyanobenzene boronic acid | 0.516 g | C(#N)C1=C(C(=CC=C1)C#N)B(O)O | C8H5BN2O2
reactant | K2CO3 | 0.52 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester | 0.5 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C18H14Cl2F3NO6S
solvent | DME H2O | 10 mL | COCCOC.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2,6-dichlorobenzoyl)-4-(2-cyano-6-carbamoyl-phenyl)-L-phenylalanine methyl ester | 325 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1C(N)=O)C#N)=O | C25H19Cl2N3O4
